US07790197B2
Control of Wet Granulation of Atorvastatin with No Volatile Base
Amorphous atorvastatin calcium prepared as described in Example 1 (62.1 mg), 1772.1 mg of microcrystalline cellulose (Avicel PH102™, FMC Biopolymer, Philadelphia, Pa.), 1010.4 mg of lactose, hydrous (Foremost Farms USA, Rothschild, Wis.), 62.1 mg of hydroxypropyl cellulose (Klucel EXF™, Hercules Incorporated, Aqualon Division, Wilmington, Del.), and 93.3 mg of croscarmellose sodium (Ac-Di-Sol™, FMC Biopolymer, Philadelphia, Pa.) were placed in a 30-cc glass bottle. The combined dry components were mixed for 10 min. using a Turbula Shaker Mixer (Willy A. Bachofen AG Maschinenfabrik, Basel, Switzerland). The mixture was then granulated in the 30-cc bottle, using a bent micro-spatula impeller with a ½″ blade on a variable speed mini-drill press (Micro-Drill model 164C-7, Cameron Precision Engineering Co., Sonora, Calif. 95370). Prior to use, the blade was bent to an angle sufficient to sweep the material being granulated, and to allow a portion of this material to flow over the top of the blade. The blade was bent to an angle about 30° from vertical. The granulating fluid was pipetted in 0.5 to 1.0 mL increments, wet mixing for 4 min. until a suitable granulation was formed based upon visual observations (total of 2.5 mL added). The wet granulation was dried overnight at 50° C. for 16 hr. in a forced hot air tray dryer. Material was analyzed for the level of lactone as described in Example 2, with the modification of using 275 mg granulation instead of 400 mg. Results are reported in Table 3.

reactant | atorvastatin calcium | CC(C)C1=C(C(=C(N1CC[C@H](C[C@H](CC(=O)[O-])O)O)C=2C=CC(=CC2)F)C=3C=CC=CC3)C(=O)NC=4C=CC=CC4.CC(C)C1=C(C(=C(N1CC[C@H](C[C@H](CC(=O)[O-])O)O)C=2C=CC(=CC2)F)C=3C=CC=CC3)C(=O)NC=4C=CC=CC4.[Ca+2]
reactant | lactose | 1010.4 mg | OC1[C@H](O)[C@@H](O)[C@H](O[C@H]2[C@H](O)[C@@H](O)[C@@H](O)[C@H](O2)CO)[C@H](O1)CO | C12H22O11
product | Atorvastatin | CC(C)C1=C(C(=C(N1CC[C@H](C[C@H](CC(=O)O)O)O)C=2C=CC(=CC2)F)C=3C=CC=CC3)C(=O)NC=4C=CC=CC4 | C33H35FN2O5
